US04175189
20.7 G. of 2,4-diamino-6-[3,6-dihydro-1(2H)-pyridyl]pyrimidine-3-oxide are mixed with 250 ml. of methylene chloride and 35 ml. of triethylamine and cooled to 5° C. 40 Ml. of chloroformic acid isobutyl ester are added dropwise while stirring. After completion of the addition, the mixture is stirred at 5° C. for 15 minutes and then at room temperature for 2 hours. The solution is treated with 200 ml. of water and extracted with methylene chloride. The organic phase is evaporated and the residue is crystallized from ethanol. There is obtained diisobutyl 6-[3,6-dihydro-1(2H)-pyridyl]-2,4-pyrimidine-dicarbamate-3-oxide, having a melting point of 137°-139° C. (decomposition).

reactant | 2,4-diamino-6-[3,6-dihydro-1(2H)-pyridyl]pyrimidine-3-oxide | NC1=NC(=CC(=[N+]1[O-])N)N1CCC=CC1 | C9H13N5O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | chloroformic acid isobutyl ester | C(C(C)C)OC(=O)Cl | C5H9ClO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | diisobutyl 6-[3,6-dihydro-1(2H)-pyridyl]-2,4-pyrimidine-dicarbamate-3-oxide | N1(CCC=CC1)C1=CC(=[N+](C(=N1)NC(=O)OCC(C)C)[O-])NC(=O)OCC(C)C | C19H29N5O5
